US09107413B2
Preparation of 2-(((Z)-((4-methoxy-2,6-dimethylphenyl)imino)((E)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinyl)methyl)-thio)acetic acid sodium salt (Compound 68C)
To a solution of 2-((Z)-(4-methoxy-2,6-dimethylphenylimino)((E)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinyl)methylthio)acetic acid (77.7 mg, 0.130 mmol) in THF (10 mL) was added slowly sodium methanolate (0.5 M in methanol; 260 μL, 0.130 mmol) at room temperature. The mixture immediately turned a darker yellow and was then evaporated at room temperature under vacuum giving a light orange solid. This material was triturated with Et2O (2×) and isolated by decanting using a centrifuge and drying under a nitrogen stream and then under high vacuum. The title compound was isolated as a light orange solid (32 mg, 39%). mp 146-154° C.; 1H NMR (400 MHz, methanol-d4) δ 9.11 (s, 1H), 8.64-7.68 (m, 7H), 7.51 (m, 2H), 6.70 (s, 2H), 3.85-3.70 (m, 4H), 3.61 (m, 1H), 2.29 (s, 6H); ESIMS m/z 599 (M+H).

reactant | 2-((Z)-(4-methoxy-2,6-dimethylphenylimino)((E)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinyl)methylthio)acetic acid | 0.130 mmol, 77.7 mg | COC1=CC(=C(C(=C1)C)\N=C(/SCC(=O)O)\N/N=C/C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C28H25F3N6O4S
reactant | sodium methanolate | 0.130 mmol, 0.5 M, 260 μL | C[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(((Z)-((4-methoxy-2,6-dimethylphenyl)imino)((E)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinyl)methyl)-thio)acetic acid sodium salt | [Na+].COC1=CC(=C(C(=C1)C)\N=C(/SCC(=O)[O-])\N/N=C/C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | InChI=1S/C28H25F3N6O4S.Na/c1-17-12-23(40-3)13-18(2)25(17)34-27(42-15-24(38)39)35-33-14-19-4-6-20(7-5-19)26-32-16-37(36-26)21-8-10-22(11-9-21)41-28(29,30)31;/h4-14,16H,15H2,1-3H3,(H,34,35)(H,38,39);/q;+1/p-1/b33-14+;
